US08334301B2
N-[3-(hydroxymethyl)-1-phenyl-1H-pyrazol-5-yl]benzenesulfonamide
A solution of ethyl 1-phenyl-5-[(phenylsulfonyl)amino]-1H-pyrazole-3-carboxylate (445 mg) in tetrahydrofuran (10 mL) was cooled to −78° C., and a 1.5 mol/L solution (4 mL) of diisobutylaluminum hydride in toluene was added dropwise. After stirring at 0° C. for 1 hr, the mixture was treated with 1 mol/L hydrochloric acid, and extracted with ethyl acetate. The aqueous layer was extracted with ethyl acetate again, and the combined extracts were washed with 1.0 mol/L hydrochloric acid, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=1:1→1:3) to give the title compound as a pale-yellow oil (yield 379 mg, yield 96%).

reactant | ethyl 1-phenyl-5-[(phenylsulfonyl)amino]-1H-pyrazole-3-carboxylate | 445 mg | C1(=CC=CC=C1)N1N=C(C=C1NS(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C18H17N3O4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[3-(hydroxymethyl)-1-phenyl-1H-pyrazol-5-yl]benzenesulfonamide | yield 379 mg, yield 96% | OCC1=NN(C(=C1)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H15N3O3S
